US06110929
Nitric acid (6 mL of 70%) was slowly added to a hot (125° C. ) solution of 7-methyl-4-quinolinol (10.5 g) in propionic acid (125 mL). The reaction mixture was stirred for about 1.5 hours and then it was allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration, rinsed well with ethanol and water and then dried to provide 6.9 g of 7-methyl-3-nitro-4-quinolinol as a pale yellow solid.

reactant | Nitric acid | 6 mL | [N+](=O)(O)[O-] | HNO3
reactant | 7-methyl-4-quinolinol | 10.5 g | CC1=CC=C2C(=CC=NC2=C1)O | C10H9NO
solvent | propionic acid | 125 mL | C(CC)(=O)O | C3H6O2
product | 7-methyl-3-nitro-4-quinolinol | 6.9 g | CC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C10H8N2O3
